US08445489B2
tert-Butyl 3-(4-tert-butoxycarbonyloxyphenyl)-6-oxo-6H-pyridazine-1-carboxylate
10 g (53 mmol) of 6-(4-hydroxyphenyl)-2H-pyridazin-3-one are dissolved in 25 ml of acetonitrile, and 19 g (58.5 mmol) of caesium carbonate and 12.8 g (58.5 mmol) of di-tert-butyl dicarbonate are added. The reaction product is stirred at room temperature for 20 h. A further 3.5 g (16 mmol) of di-tert-butyl dicarbonate in 10 ml of acetonitrile are subsequently added, and the mixture is stirred at room temperature for a further 20 h. The reaction mixture is evaporated, and the residue is taken up in 80 ml of DMF. The reaction mixture is stirred at room temperature for 20 h. A further 13 g (59.6 mmol) of di-tert-butyl dicarbonate in 40 ml of dioxane are subsequently added. After 20 h, the reaction mixture is evaporated to dryness, the residue is taken up in ethyl acetate and saturated sodium hydrogen-carbonate solution. The aqueous phase is supersaturated with sodium chloride, the organic phase is separated off, and the aqueous phase is again extracted with ethyl acetate. The combined organic phases are washed with 1 N HCl and saturated sodium chloride solution, dried over Na2SO4 and evaporated.

reactant | 6-(4-hydroxyphenyl)-2H-pyridazin-3-one | 53 mmol, 10 g | OC1=CC=C(C=C1)C=1C=CC(NN1)=O | C10H8N2O2
reactant | caesium carbonate | 58.5 mmol, 19 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | di-tert-butyl dicarbonate | 58.5 mmol, 12.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 16 mmol, 3.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 59.6 mmol, 13 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | tert-Butyl 3-(4-tert-butoxycarbonyloxyphenyl)-6-oxo-6H-pyridazine-1-carboxylate | C(C)(C)(C)OC(=O)OC1=CC=C(C=C1)C1=NN(C(C=C1)=O)C(=O)OC(C)(C)C | C20H24N2O6
